US07598264B2
To a solution of 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid (0.14 g, 0.40 mol) in DMF was added BOP (0.515 g, 1.167 mmol) and the dimethylamine (2.0 M in THF) (0.035 g, 0.778 mmol). After 24 hours, the product mixture was concentrated under vacuum. The residual material was purified using reverse phase HPLC eluting with 5-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to give 6-(4-fluorobenzyl)-4-methoxy-N,N, 2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (ES MS M+1=388). A solution of this product (0.1 g, 0.3 mmol) in CH2Cl2 was treated with HBr (30 wt % in acetic acid) (0.104 g, 1.29 mmol) and after stirring at room temperature for 24 hours, concentrated under vacuum. The residual material was purified using reverse phase HPLC eluting with 5%-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to afford the title compound.

reactant | 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | 0.40 mol, 0.14 g | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)O)C)=O)OC)=O)C=C1 | C18H17FN2O5
reactant | BOP | 1.167 mmol, 0.515 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | dimethylamine | 0.778 mmol, 2.0 M, 0.035 g | CNC | C2H7N
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(4-fluorobenzyl)-4-methoxy-N,N, 2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C)=O)OC)=O)C=C1 | C20H22FN3O4
